US05840751
5,6-Dihydro-4-hydroxy-3-(3-methylphenylthio)-6,6-diphenyl-2H-pyran-2-one
The title compound was prepared as described in General Method 6 from 1.3 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 1.4 mmol of 3-methylbenzenethiol, and 1.4 mmol of piperidine in 25 mL of dichloromethane. The product was triturated with hexane:ether (1:1) to afford a solid which was dissolved in 2N NaOH, washed with ether, acidified to pH 2, and extracted with ethyl acetate. The extract was washed with water, dried over MgSO4, and concentrated to give a solid (m.p. 58 -60° C.). 1H NMR (DMSO-d6) δ 2.07 (s, 3 H), 3.77 (s, 2 H), 6.06 (m, 1 H), 6.45 (s, 1 H), 6.78 (m, 2 H), 7.25-7.47 (m, 10 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.3 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | 3-methylbenzenethiol | 1.4 mmol | CC=1C=C(C=CC1)S | C7H8S
reactant | piperidine | 1.4 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | NaOH | 2N | [OH-].[Na+]
product | 5,6-Dihydro-4-hydroxy-3-(3-methylphenylthio)-6,6-diphenyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=CC(=CC=C1)C | C24H20O3S
